US06469065B1
4a. 3-Methyl-3-(2,4,6-trimethoxyphenylthio)butanoic Acid
To a solution of 3-methyl-3-sulfanylbutanoic acid (Sweetman et al, J. Med Chem.,14:868 (1971), the disclosure of which is incorporated herein by reference in its entirety) (4.6 g, 34 mmol) in methylene chloride (250 mL) under nitrogen and cooled over ice/salt to 5° C. (internal temperature) was added trifluoroacetic acid (82 g, 0.72 mol). No significant temperature rise was noted during the addition. To this was then added dropwise a solution of 2,4,6-trimethoxybenzyl alcohol (Munson et al., J. Org. Chem., 57, 3013 (1992), the disclosure of which is incorporated herein by reference in its entirety) (6.45 g, 32 mmol) in methylene chloride (150 mL) such that the reaction temperature does not rise above 5° C. After the addition was complete, the mixture was stirred for an additional 5 minutes at 5° C. and the volatiles were evaporated in vacuo (toluene or ethyl acetate can be used to assist in the removal of volatile material). The residue was partitioned between diethyl ether and water and the organic phase dried over anhydrous sodium sulfate, filtered and the volatile material evaporated in vacuo. The residue was treated with activated charcoal and recrystalized from diethyl ether/hexane. The product was isolated as a white solid in 70% yield (7 g). mp 103-105° C.; 1H NMR(CDCl3): δ6.12 (s, 2H), 3.80-3.85 (m, 11H), 2.74 (s, 2H), 1.47 (s, 6H). 13C NMR (CDCl3): δ173.9, 160.6, 158.6, 105.6, 90.5, 55.7, 55.3, 45.9, 43.6, 28.4, 21.0.

reactant | 3-methyl-3-sulfanylbutanoic acid | CC(CC(=O)O)(C)S | C5H10O2S
reactant | trifluoroacetic acid | 0.72 mol, 82 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,4,6-trimethoxybenzyl alcohol | COC1=C(CO)C(=CC(=C1)OC)OC | C10H14O4
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 3-Methyl-3-(2,4,6-trimethoxyphenylthio)butanoic Acid | 70% yield | CC(CC(=O)O)(C)SC1=C(C=C(C=C1OC)OC)OC | C14H20O5S
